US05395752
A mixture of 3-hydroxy-2-naphthoic acid (Aldrich cat. #H4600-7) (376 g, 2.0 mol) and aniline (376 ml, 4.1 mol) was heated at 170° C. with stirring under nitrogen for 16 hours. The resulting mixture, when hot, was poured into 1 N HCl (2.5 ml), heated to 100° C., and stirred at this temperature for 5 minutes. The mixture, when hot, was filtrated and the solid was washed with 0.2 N HCl (600 ml). The wet material was boiled and mechanically stirred with 0.5 N sodium carbonate solution (6.0 ml) for 10 minutes, cooled and filtered. The reddish filtrate was treated dropwise with 5 N HCl with stirring to ~ pH 7. The resulting yellow precipitate was collected, washed with small amount of water and crystallized from ethanol (400 ml) to give 3-anilino-2-naphthoic acid (36 g, 7%). Rf 0.6 (silica gel, EM Art. 5715, 20% methanol/chloroform). MS (EI): m/z 264 (M).

reactant | 3-hydroxy-2-naphthoic acid | 2.0 mol, 376 g | OC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H8O3
reactant | aniline | 4.1 mol, 376 ml | NC1=CC=CC=C1 | C6H7N
reactant | HCl | 1 N, 2.5 ml | Cl | ClH
product | 3-anilino-2-naphthoic acid | 36 g, 7% | N(C1=CC=CC=C1)C=1C(=CC2=CC=CC=C2C1)C(=O)O | C17H13NO2
